US09359338B2
Step 5: Synthesis of N-[4-[(5-amino-3-methyl-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide
Dissolve N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide (269 mg, 0.83 mmol) in MeOH (5 mL) and DCM (5 mL). Add Pd/C (10%, 104 mg), flush with H2. Stir the reaction under H2 at room temperature for 2 hrs. After the reaction, flush with N2, filter the reaction mixture; concentrate the filtrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:1) affords the title compound (70 mg, 30%). MS: (M+1): 285.

reactant | N-[4-[(3-methyl-5-nitro-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide | 0.83 mmol, 269 mg | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1=CC(=NC=C1)NC(=O)C1CC1 | C15H14N4O4
solvent | MeOH | 5 mL | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[4-[(5-amino-3-methyl-2-pyridyl)oxy]-2-pyridyl]cyclopropanecarboxamide | 70 mg, 30% | NC=1C=C(C(=NC1)OC1=CC(=NC=C1)NC(=O)C1CC1)C | C15H16N4O2
